US04880933
2.2 g of 2-cyanoimino-imidazolidine is dissolved in 20 ml of dry dimethyl formamide. To this solution were portionwise added 1.7 g of 60% oil dispersed sodium hydride at a temperature of at most 0° C. The reaction mixture was stirred at 0° C. until the evolution of hydrogen had ceased. To the reaction mixture were dropwise added 1.9 g of propionyl chloride while the reaction mixture was kept at a temperature lower than 0° C. After this addition, the reaction mixture was stirred at room temperature for a short period of time. The reaction mixture was poured into ice water, and neutralized with hydrochloric acid. An extraction operation was carried out by using dichloromethane, and the extractant was concentrated, so that the aimed product was precipitated as a crystalline material. The precipitated product was separated by filtration, and washed in ether, 1.4 g of 2-cyanoimino-1-propionyl-imidazolidine were obtained. mp. 208°-210° C.

reactant | 2-cyanoimino-imidazolidine | 2.2 g | C(#N)N=C1NCCN1 | C4H6N4
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | propionyl chloride | 1.9 g | C(CC)(=O)Cl | C3H5ClO
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-cyanoimino-1-propionyl-imidazolidine | 1.4 g | C(#N)N=C1N(CCN1)C(CC)=O | C7H10N4O
